US05808062
4-Hydroxy-3-[(phenylmethyl)thio]-6-(3-pyridinyl)-2H-pyran-2-one.
The title compound was prepared from the condensation of the trimethylsilyl enol ether of 3-acetyl pyridine and diethyl ester of [(phenylmethyl)thio]propanedioic acid following the same procedure outlined in Method A; m.p. 183°-184° C. NMR (DMSO-d6) δ 4.02 (s, 2 H), 6.83 (s, 1 H), 7.20 (m, 1 H), 7.26 (d, 4 H), 7.55 (m, 1 H), 8.16 (m, 1 H), 8.69 (m, 1 H), 8.98 (d, 1 H).

reactant | 3-acetyl pyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | [(phenylmethyl)thio]propanedioic acid | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
product | 4-Hydroxy-3-[(phenylmethyl)thio]-6-(3-pyridinyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C=1C=NC=CC1)=O)SCC1=CC=CC=C1 | C17H13NO3S
